US04571396
1-Ethyl-6-fluoro-1,4-dihydro-7-(3-methyl-3,8-diazabicyclo[3.2.1]oct-2-yl)-4-oxo-1,8-naphthyridine-3-carboxylic acid, hydrochloride (a)
A mixture of 0.54 g (2.0 mmol) of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, 0.50 g (2.5 mmol) of 3-methyl-3,8-diazabicyclo[3.2.1]octane dihydrochloride [P. A. Sturm, et al, J. Med. Chem., 17, 481 (1974)], 0.75 ml (5.0 ml) 1,8-diazabicyclo[5.4.0]undec-7-ene and 20 ml of acetonitrile was heated under reflux for 1.5 hours and stirred overnight at room temperature. The reaction mixture was filtered and the solid washed with ethanol to give 0.46 g of the title compound, mp>310°.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 2.0 mmol, 0.54 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
reactant | 3-methyl-3,8-diazabicyclo[3.2.1]octane dihydrochloride | 2.5 mmol, 0.50 g | Cl.Cl.CN1CC2CCC(C1)N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.75 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-(3-methyl-3,8-diazabicyclo[3.2.1]oct-2-yl)-4-oxo-1,8-naphthyridine-3-carboxylic acid, hydrochloride | 0.46 g | Cl.C(C)N1C=C(C(C2=CC(=C(N=C12)C1C2CCC(CN1C)N2)F)=O)C(=O)O | InChI=1S/C18H21FN4O3.ClH/c1-3-23-8-11(18(25)26)16(24)10-6-12(19)14(21-17(10)23)15-13-5-4-9(20-13)7-22(15)2;/h6,8-9,13,15,20H,3-5,7H2,1-2H3,(H,25,26);1H
